Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[C:3]=[C:4]=[C:5]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:6]([H:10])([H:14])([H:15])[H:16]>>[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],70.1569744725556
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[C-:3]#[O+:4].[O:1]([C:2]([C:5]#[N:6])([H:8])[H:9])[H:7],62.5490874993391
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:8])[H:11])[H:10])([C:6](=[C:5])[H:12])([H:7])[H:9],109.41210926683901
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]1([H:13])[C:5]([H:14])([H:16])[C@:6]1([O:7][H:15])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],75.6250343207245
[N-:1]=[C:2]=[C:3]=[O+:6][C:5]([C:4]([H:7])([H:8])[H:9])([H:10])[H:11]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,41.53220064210329
[H:7][H:10].[O:1]1[C:2]([H:8])([H:9])[C:3]1=[C:4]=[C:5]=[O:6]>>[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],43.263786450981605
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:11])[C:6](=[O:7])[H:13])([H:9])[H:10].[C:4](=[O:5])([H:8])[H:12],59.4105070147357
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[H:10][H:11].[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O+:4]=[C-:5][O:6]1)\[H:7],73.22702983593442
[C:2](=[C:3]([O:4][H:11])[H:10])([H:8])[H:9].[O:1]([C:5]([O:6][H:14])([H:12])[H:13])[H:7]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],72.86690379858939
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:8])[H:11])([H:9])([H:10])[H:17].[C:4](=[C:5]([C:6]([H:18])([H:19])[H:20])[O:7][H:21])([H:15])[H:16],104.34460750605801
[C:1](/[C:2](=[N:3]/[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[H:11][H:12]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],70.3040249086516
[O:1]([c:2]1[n:3][c:4]([H:8])[c:5]([H:9])[n:6]1[H:10])[H:7]>>[O:1]([C:2]1=[N:3][C@@:4]1(/[C:5](=[N:6]/[H:10])[H:9])[H:8])[H:7],91.5922476533002
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:4](=[C:3]=[C:2]([H:8])[H:9])[C:5](=[O:6])[H:10])[H:7],56.286100943990405
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:4]([C@@:2]([O:3][H:12])([O:7]/[C:6](=[N:5]/[H:15])[H:16])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10],82.6691821085025
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])([H:9])[H:10].[H:8][H:11],104.715397880452
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[C@@:3]2([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:9])[H:10].[H:8][H:11],82.55144366265809
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[O:3][C:4](=[C:6]([H:12])[H:13])[O:5]1.[H:7][H:14],101.749646596446
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],53.8927646628854
[N:1]1=[O+:5][C:4]([H:8])=[C:3]=[C:2]1[N:7]=[N-:6]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],48.31164563186691
[C:1]([C:2]([H:9])([H:10])[H:12])([H:6])([H:7])[H:8].[C:3](=[O:4])=[N:5][H:11]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],67.74351897367384
[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[C:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],45.298275718148496
[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C+:2]([N:3]([H:10])[H:11])=[C:4]=[N-:5].[C:1]([H:6])([H:7])([H:8])[H:9],61.4915753255299
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[O:1]=[C:2]=[C:7]([O:6][C@@:5]1([H:11])[N:3]([H:8])[C:4]1([H:9])[H:10])[H:12],67.1623130007372
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]1([H:8])[C:2]([H:11])([H:12])[C@:3]([C:4]([H:14])([H:15])[H:16])([H:13])[N:5]([H:17])[C:6]([H:18])=[O+:7]1.[H:9][H:10],102.601383467518
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C+:3]([O:4][H:12])[N-:5][C+:6]([N-:7][H:14])[H:13])[H:11])([H:8])([H:9])[H:10],41.2903825482248
